US07511050B2
Step E: N-[2-(7-bromo-5-oxo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-3-yl)ethyl]-4-methoxybenzamide
A mixture of 3-(2-aminoethyl)-7-bromo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one (70 mg, 0.20 mmol), 4-methoxybenzoic acid (32 mg, 0.21 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (92 mg, 0.21 mmol), and triethylamine (0.053 mL, 0.38 mmol) in DMF (5 mL) was stirred at room temperature overnight. The reaction mixture was diluted with water and acetonitrile and then purified by prep LCMS to give the desired product (70 mg, 73% yield). LCMS calculated for C21H25BrN7O3 (M+H): 502.1, 504.0; found: 502.0, 504.0.

reactant | 3-(2-aminoethyl)-7-bromo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 0.20 mmol, 70 mg | NCCC1=NN=C2N1C(C=1NC(=NC1N2CCCCC)Br)=O | C13H18BrN7O
reactant | 4-methoxybenzoic acid | 0.21 mmol, 32 mg | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.21 mmol, 92 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.38 mmol, 0.053 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[2-(7-bromo-5-oxo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-3-yl)ethyl]-4-methoxybenzamide | 70 mg, 73% yield | BrC1=NC=2N(C=3N(C(C2N1)=O)C(=NN3)CCNC(C3=CC=C(C=C3)OC)=O)CCCCC | C21H24BrN7O3
